* source TPS55165-Q1_TRANS
C_C8         0 VBAT  10u  
X_U1         N167982642 N1679826418 0 0 VBAT 0 N16798810 N16798815 0 PG 0 0 0 0
+  VBAT VBAT VREG VOUT VOUT VREG VREG TPS55165-Q1_TRANS PARAMS: STEADY_STATE=1
X_C15         VOUT 0 CESR PARAMS: C=0.1u ESR=64m IC=5 X=1
C_C1         0 VBAT  0.47u  
R_RLOAD1         VOUT 0  {12/0.7} TC=0,0 
X_C2         VOUT 0 CESR PARAMS: C=10u ESR=2.229m IC=5 X=1
X_C16         VOUT 0 CESR PARAMS: C=10u ESR=2.229m IC=5 X=1
X_C17         VOUT 0 CESR PARAMS: C=10u ESR=2.229m IC=5 X=1
R_R2         PG VOUT  100k TC=0,0 
C_C11         0 VREG  4.7u  
V_VIN         VBAT 0 14
X_U2         N16798810 N167982642 CESR PARAMS: C=100n ESR=29.6m ESL=1N
X_U3         N16798815 N1679826418 CESR PARAMS: C=100n ESR=30m ESL=1N
X_U5         N16798815 N16798810 LDCR PARAMS: L=18m DCR=18m
